US06509354B1
0.9 g (3.3 mmol) of 2-mercapto-4-(3-trifluoromethylpyrazolyl)benzonitrile, 0.5 g (3.3 mmol) of cyclobutylmethyl bromide and 0.55 g (4.0 mmol) of potassium carbonate were stirred in 5 ml of N,N-dimethylformamide at room temperature overnight. The resulting reaction mixture was poured into 50 ml of water and the organic matters were extracted with 20 ml of ethyl acetate twice. The ethyl acetate layers were combined, then washed with 30 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 0.24 g of 2-cyclobutylmethylthio-4-(3-trifluoromethylpyrazolyl)benzonitrile (yield 21.2%) as a pale yellow powder (m.p. 102-103° C.).

reactant | 2-mercapto-4-(3-trifluoromethylpyrazolyl)benzonitrile | 3.3 mmol, 0.9 g | SC1=C(C#N)C=CC(=C1)C=1C(=NNC1)C(F)(F)F | C11H6F3N3S
reactant | cyclobutylmethyl bromide | 3.3 mmol, 0.5 g | C1(CCC1)CBr | C5H9Br
reactant | potassium carbonate | 4.0 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-cyclobutylmethylthio-4-(3-trifluoromethylpyrazolyl)benzonitrile | 0.24 g, yield 21.2% | C1(CCC1)CSC1=C(C#N)C=CC(=C1)C=1C(=NNC1)C(F)(F)F | C16H14F3N3S
